US08067457B2
rel-N-(2-{[(3R,4R)-4-isopropoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (93)
The title compound was synthesized in similar fashion to rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide, 2-bromopropane was substituted for bromoethane, and was isolated as a white solid. 1H-NMR (CDCl3) δ: 1.10 (d, J=6.0 Hz, 3H), 1.15 (d, J=6.0 Hz, 3H), 1.40-1.60 (m, 2H), 1.64-1.80 (m, 2H), 2.17-2.26 (m, 1H), 2.20-2.40 (m, 1H), 2.64-2.78 (m, 2H), 3.21-3.43 (m, 3H), 3.75-3.90 (m, 2H), 3.90-4.00 (m, 2H), 4.07-4.17 (m, 2H), 4.18-4.25 (m, 1H), 6.47-6.60 (m, 1H), 7.20-7.30 (m, 1H), 7.56 (t, J=7.5 Hz, 1H), 7.76 (d, J=7.5 Hz, 1H), 7.99 (d, J=7.5 Hz, 1H), 8.08 (s, 1H). MS m/z: 458 (M+1).

reactant | rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H28F3N3O4
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | bromoethane | BrCC | C2H5Br
product | rel-N-(2-{[(3R,4R)-4-isopropoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C)(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H30F3N3O4
